US03972934
N-Methyl-N-(3-methylbut-2-enyl)-2-(3-phenoxyphenyl)propylamine hydrochloride
A mixture of 23.9 g. of N-Methyl-2-(3-phenoxyphenyl)propylamine, prepared according to the method of Example 20, and 13.8 g. of potassium carbonate in benzene was treated with 20.8 g. of 1-chloro-3-methyl-2-butene. The reaction mixture was refluxed with mechanical stirring for about 60 hours. After cooling to room temperature, the reaction was washed with water and extracted with dilute hydrochloric acid. The acidic extract was basified with sodium hydroxide solution and extracted with ether. The ether extract was washed twice with water and dried over sodium sulfate. Dry hydrogen chloride gas was passed into the ethereal solution and the resulting precipitated hydrochloride salt was filtered and recrystallized from an alcohol-ether mixture to yield 11.5 g. of the titled product, m.p. 120°-122°C., pK'a 8.5.

reactant | N-Methyl-2-(3-phenoxyphenyl)propylamine | CNCC(C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C16H19NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloro-3-methyl-2-butene | ClCC=C(C)C | C5H9Cl
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-Methyl-N-(3-methylbut-2-enyl)-2-(3-phenoxyphenyl)propylamine hydrochloride | Cl.CN(CC=C(C)C)CC(C)C1=CC(=CC=C1)OC1=CC=CC=C1 | InChI=1S/C21H27NO.ClH/c1-17(2)13-14-22(4)16-18(3)19-9-8-12-21(15-19)23-20-10-6-5-7-11-20;/h5-13,15,18H,14,16H2,1-4H3;1H
